US07335674B2
1.1) N-(3,5-dimethoxyphenyl)-2,6-difluorobenzamide:
5.5 ml (39.2 mmol; 1.2 equivalent) of triethylamine and 4.5 ml (35.9 mmol; 1.1 equivalent) of 2,6-difluorobenzoyl chloride are added to 5 g (32.6 mmol) of 3,5-dimethoxyaniline in solution in 100 ml of anhydrous toluene. The reaction medium is maintained under stirring at 70° C. for 1 hour 30 minutes, then, after returning to ambient temperature, washed with 3 times 50 ml of water. The resulting organic phase is dried over magnesium sulphate then the solvent is evaporated off under reduced pressure. The expected product is obtained in the form of a white powder (8.75 g; yield=97%) used in the following stage without other purification.

reactant | triethylamine | 39.2 mmol, 5.5 ml, 1.2 equivalent | C(C)N(CC)CC | C6H15N
reactant | 2,6-difluorobenzoyl chloride | 35.9 mmol, 4.5 ml, 1.1 equivalent | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | 3,5-dimethoxyaniline | 32.6 mmol, 5 g | COC=1C=C(N)C=C(C1)OC | C8H11NO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3,5-dimethoxyphenyl)-2,6-difluorobenzamide | yield=97% | COC=1C=C(C=C(C1)OC)NC(C1=C(C=CC=C1F)F)=O | C15H13F2NO3
